datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O-:10])c3[C@H](C2)N1C.Cc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(Cl)cc3)o2)cc1>>COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O:10][H:20])c3[C@H](C2)N1C.Cc1ccc(-c2c[n:21]c(-c3ccc(Cl)cc3)o2)cc1 10=20;20,21=21",
"COc1ccc2nccc(C(O)C3CCCC[NH+:21]3[H:20])c2c1.COc1ccccc1/C=N/[O-:10]>>COc1ccc2nccc(C(O)C3CCCC[NH:21]3)c2c1.COc1ccccc1/C=N/[O:10][H:20] 10=20;20,21=21",
"Cc1nn(C)c(N(C)C(=O)C[NH2:10])c1C(=O)c1ccccc1F.O=[N+]([O-])c1ccccc1C[NH2+:21][H:20]>>Cc1nn(C)c(N(C)C(=O)C[NH2+:10][H:20])c1C(=O)c1ccccc1F.O=[N+]([O-])c1ccccc1C[NH2:21] 10=20;20,21=21",
"CCOCCn1c(N2CCC[NH+](CCCCn3cc(C(=O)[O:21][H:20])cn3)CC2)[nH+]c2ccccc21.O=C(C1=C/C=C/C=C\C=C/1)[O-:10]>>CCOCCn1c(N2CCC[NH+](CCCCn3cc(C(=O)[O-:21])cn3)CC2)[nH+]c2ccccc21.O=C(C1=C\C=C\C=C/C=C\1)[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(C(=O)c2ccccc2C(=O)[O-:10])cc1.[O-]c1cc2ccccc2n[n+:21]1[H:20]>>Cc1ccc(C(=O)c2ccccc2C(=O)[O:10][H:20])cc1.[O-]c1cc2ccccc2n[n:21]1 10=20;20,21=21",
"CCCC[NH:10]CCCC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCC[NH+:10](CCCC)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N+:21](Cl)(CC)[H:20].Cc1ccc2ccc3cccnc3c2[n:10]1>>CC[N:21](Cl)CC.Cc1ccc2ccc3cccnc3c2[n+:10]1[H:20] 10=20;20,21=21",
"O=C(c1ccc([N+](=O)[O-])cc1O)[O:21][H:20].Oc1cccc([O-:10])c1>>O=C(c1ccc([N+](=O)[O-])cc1O)[O-:21].Oc1cccc([O:10][H:20])c1 10=20;20,21=21",
"CCC(C)[NH:10]c1ccccc1.CCO/C(C)=[NH+:21]\[H:20]>>CCC(C)[NH+:10](c1ccccc1)[H:20].CCOC(C)=[NH:21] 10=20;20,21=21",
"Cc1ccc2c(c1)[n+:21]([H:20])cn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O.N#CC(C#N)=[N:10]Nc1ccc(OC(F)(F)F)cc1>>Cc1ccc2c(c1)[n:21]cn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O.N#CC(C#N)=[N+:10](Nc1ccc(OC(F)(F)F)cc1)[H:20] 10=20;20,21=21",
"NC(=O)c1ccccc1[O-:10].O=C(c1c(Br)cccc1[N+](=O)[O-])[O:21][H:20]>>NC(=O)c1ccccc1[O:10][H:20].O=C(c1c(Br)cccc1[N+](=O)[O-])[O-:21] 10=20;20,21=21",
"C/C=C/C#CC(=O)[O-:10].O=[N+]([O-])c1cc2ccccc2cc1[NH2+:21][H:20]>>C/C=C/C#CC(=O)[O:10][H:20].O=[N+]([O-])c1cc2ccccc2cc1[NH2:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COC(=O)C(Cc1c[nH]cn1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC(=O)C(Cc1c[nH]cn1)[NH2+:10][H:20] 10=20;20,21=21",
"CS(=O)c1ccc([O-:10])cc1.Cc1nc(C(=O)[O-])ccc1[O:21][H:20]>>CS(=O)c1ccc([O:10][H:20])cc1.Cc1nc(C(=O)[O-])ccc1[O-:21] 10=20;20,21=21",
"O=C(N[NH2:10])c1cc[nH+]cc1.O=C1N[C@@H](Cc2c[n+:21]([H:20])c[nH]2)C(=O)N[C@H]1Cc1cnc[nH]1>>O=C(N[NH2+:10][H:20])c1cc[nH+]cc1.O=C1N[C@@H](Cc2c[n:21]c[nH]2)C(=O)N[C@H]1Cc1cnc[nH]1 10=20;20,21=21",
"CCCNc1c2ccccc2[n:10]c2cccc([N+](=O)[O-])c12.Cc1ccc(C)c(N[N+:21](=C(C#N)C#N)[H:20])c1>>CCCNc1c2ccccc2[n+:10]([H:20])c2cccc([N+](=O)[O-])c12.Cc1ccc(C)c(N[N:21]=C(C#N)C#N)c1 10=20;20,21=21",
"CC(C)(C)c1cc([N+](=O)[O-])cc(C(C)(C)C)c1[O-:10].CCO[Si](C)(C[NH2+:21][H:20])OCC>>CC(C)(C)c1cc([N+](=O)[O-])cc(C(C)(C)C)c1[O:10][H:20].CCO[Si](C)(C[NH2:21])OCC 10=20;20,21=21",
"Cc1ccc2c(c1)c1c3c([n:10]ccn32)CCC1.O=P([O-])(O)C([NH2+]Cc1cc[n+:21]([H:20])cc1)c1ccccc1O>>Cc1ccc2c(c1)c1c3c([n+:10]([H:20])ccn32)CCC1.O=P([O-])(O)C([NH2+]Cc1cc[n:21]cc1)c1ccccc1O 10=20;20,21=21",
"CCOC(=O)CC[N:10](C)C.CN(C)c1ccc2cc3ccc(N(C)C)cc3[n+:21]([H:20])c2c1>>CCOC(=O)CC[N+:10](C)(C)[H:20].CN(C)c1ccc2cc3ccc(N(C)C)cc3[n:21]c2c1 10=20;20,21=21",
"Nc1cnc2ccccc2[n:10]1.O=C(O)C1(C(=O)[O:21][H:20])CC1>>Nc1cnc2ccccc2[n+:10]1[H:20].O=C(O)C1(C(=O)[O-:21])CC1 10=20;20,21=21",
"CC([Se-])C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC([Se-])C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Nc1nc(N)[n+:21]([H:20])c(N)n1.O=[N+]([O-])c1ccc(C2SCC[NH:10]2)cc1>>Nc1nc(N)[n:21]c(N)n1.O=[N+]([O-])c1ccc(C2SCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(Oc1ccc([N+](=O)[O-])cc1)[C@@H]1CCC[C@@H]1[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(Oc1ccc([N+](=O)[O-])cc1)[C@@H]1CCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cc(-c2ccccc2)n[n+](C)c1NCC[N+:21]1([H:20])CCOCC1.ON=C1CCCC(=NO)C1=N[O-:10]>>Cc1cc(-c2ccccc2)n[n+](C)c1NCC[N:21]1CCOCC1.ON=C1CCCC(=NO)C1=N[O:10][H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+][C@@H](CCCCN1C(=O)C[C@H]([NH2:10])C1=O)C(=O)[O-]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+][C@@H](CCCCN1C(=O)C[C@H]([NH2+:10][H:20])C1=O)C(=O)[O-] 10=20;20,21=21",
"Cc1ccc(CNCC[NH2:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc(CNCC[NH2+:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"N#CC[N+:21]1([H:20])CCCCC1.NC(=O)C1CC2CC[N:10]1CC2>>N#CC[N:21]1CCCCC1.NC(=O)C1CC2CC[N+:10]1([H:20])CC2 10=20;20,21=21",
"Cc1ccc2c(c1)cc1cc(C)ccc1[n:10]2.Clc1cc2ccc[n+:21]([H:20])c2c2ncccc12>>Cc1ccc2c(c1)cc1cc(C)ccc1[n+:10]2[H:20].Clc1cc2ccc[n:21]c2c2ncccc12 10=20;20,21=21",
"CC(C)n1nn[n:10]c1N.OCCCNc1nc(NCCCO)[n+:21]([H:20])c(NCCCO)n1>>CC(C)n1nn[n+:10]([H:20])c1N.OCCCNc1nc(NCCCO)[n:21]c(NCCCO)n1 10=20;20,21=21",
